US07820823B2
(3R)-3-{[4-{(5R)-5-Azidomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenyl]-benzyloxycarbonyl-amino}-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
To a solution 3.36 g of (3R)-3-{benzyloxycarbonyl-[2-fluoro-4-{(5R)-5-hydroxymethyl-2-oxo-oxazolidin-3-yl}-phenyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester (10.8 mmol) and 2.05 ml of triethylamine (10.8 mmol) in 40 ml of dichloromethane, was added at 0° C. 0.805 ml of methanesulfonyl chloride (10.8 mmol). The reaction was stirred at rt. and monitored by TLC. The reaction was diluted with water and washed with water and brine. The org. layer was dried over Mg sulfate, filtered and the filtrate evaporated The solid residue was dissolved in 10 ml of DMF and 1.38 g sodium azide (10.8 mmol) was added and the mixture stirred under inert gas at 80° C. for 20 hrs. The DMF was evaporated, the residue dissolved in ethyl acetate, washed with water and brine, dried over Mg sulfate, filtered and evaporated.

reactant | (3R)-3-{benzyloxycarbonyl-[2-fluoro-4-{(5R)-5-hydroxymethyl-2-oxo-oxazolidin-3-yl}-phenyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.8 mmol, 3.36 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N(C1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F)C(=O)OCC1=CC=CC=C1 | C27H32FN3O7
reactant | triethylamine | 10.8 mmol, 2.05 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 10.8 mmol, 0.805 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 10.8 mmol, 1.38 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3R)-3-{[4-{(5R)-5-Azidomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenyl]-benzyloxycarbonyl-amino}-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N(C(=O)OCC1=CC=CC=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C27H31FN6O6
